US04996347
Following the procedure described in Preparation I and starting from 18 g (0.07407 mol) of 4-hydroxyphenyl 3-nitrophenyl methanone and 12.3 g (0.0992 mol) of dimethylthiocarbamoyl chloride, 20.5 g (yield: 84%) of O-4-(3-nitrobenzoyl)phenyl dimethylthiocarbamate are obtained.

reactant | 4-hydroxyphenyl 3-nitrophenyl methanone | 0.07407 mol, 18 g | OC1=CC=C(C=C1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H9NO4
reactant | dimethylthiocarbamoyl chloride | 0.0992 mol, 12.3 g | CN(C(=S)Cl)C | C3H6ClNS
product | O-4-(3-nitrobenzoyl)phenyl dimethylthiocarbamate | 20.5 g, yield: 84% | CN(C(OC1=CC=C(C=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])=O)=S)C | C16H14N2O4S
